US08604029B2
2-Amino-ethanol (0.82 g, 13.5 mmol) was added to a solution of 2,6-dichloropyridine (2.0 g, 13.5 mmol) in pyridine (10 mL) at room temperature and then heated at 100° C. overnight. The reaction mixture was concentrated in vacuo to obtain a residue which was dissolved in ethyl acetate. The solution was washed with water, brine, dried over anhydrous sodium sulfate and evaporated in vacuo to afford 2-(6-chloro-pyridin-2-ylamino)-ethanol (2.3 g, 99%) as a white solid.

reactant | 2-Amino-ethanol | 13.5 mmol, 0.82 g | NCCO | C2H7NO
reactant | 2,6-dichloropyridine | 13.5 mmol, 2.0 g | ClC1=NC(=CC=C1)Cl | C5H3Cl2N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-chloro-pyridin-2-ylamino)-ethanol | 2.3 g, 99% | ClC1=CC=CC(=N1)NCCO | C7H9ClN2O
